US08686046B2
1-tert-butyl 2-methyl pyrrolidine-1,2-dicarboxylate (17)
D,L-proline (8.7 mmols, 1 g) was dissolved in methanol (75 mL) and cooled to 0° C. Thionyl chloride (17.4 mmols, 2.07 g) was then added dropwise to the solution. The reaction mixture was then allowed to warm slowly to room temperature and stirred for 15 hours. At this time the reaction mixture was evaporated to dryness. Three 15 mL portions of methanol were added and evaporated immediately followed by one 15 mL portion of diethyl ether. The intermediate was collected as a white crystalline solid. After drying under high vacuum for a few hours, the white solid was suspended in DCM (87 mL) and triethylamine (34.8 mmols, 3.52 g) was added followed by di-tert-butyl dicarbonate (9.57 mmol, 1.13 g). The reaction was monitored by TLC and when complete, the reaction mixture was evaporated to dryness. The crude material was then taken up in ethyl acetate and washed with three 15 mL portions of aqueous 1N HCl followed by one 10 mL portion of brine. The organic layer was then dried with magnesium sulfate and evaporated to dryness. No further purification was carried out; 1.556 g (6.8 mmol) was recovered after two steps. 1H NMR (500 MHz, CDCl3) δ 4.31 (d, J=8.6, 1H), 4.20 (dd, J=4.2, 8.5, 1H), 3.77-3.69 (m, 3H), 3.58-3.50 (m, 1H), 3.45 (dd, J=6.8, 10.6, 1H), 3.37 (s, 1H), 2.27-2.14 (m, 1H), 2.02-1.90 (m, 2H), 1.90-1.81 (m, 1H), 1.46 (d, J=12.5, 4H), 1.43-1.36 (m, 6H). 13C NMR (126 MHz, CDCl3) δ 173.37, 153.80, 79.84, 59.09, 58.69, 52.09, 51.92, 46.53, 46.29, 30.85, 29.90, 28.40, 28.27, 24.32, 23.67, 18.38.

reactant | D,L-proline | 8.7 mmols, 1 g | N1C(C(=O)O)CCC1 | C5H9NO2
reactant | Thionyl chloride | 17.4 mmols, 2.07 g | S(=O)(Cl)Cl | Cl2OS
reactant | triethylamine | 34.8 mmols, 3.52 g | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 9.57 mmol, 1.13 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | methanol | 75 mL | CO | CH4O
product | 1-tert-butyl 2-methyl pyrrolidine-1,2-dicarboxylate | N1(C(CCC1)C(=O)OC)C(=O)OC(C)(C)C | C11H19NO4
